US08217027B2
To a 60-mL microwave vial was suspended (1R,3R)-methyl 1-(benzyloxycarbonylamino)-3-(4-bromophenyl)cyclopentanecarboxylate (1.1 g, 2.54 mmol) and 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane (0.431 g, 2.80 mmol) and Cs2CO3 (2.487 g, 7.63 mmol) in DME (30 ml) and Water (7.50 ml). The reaction vessel was purged with nitrogen for 5 minutes. PdCl2(dppf) (0.186 g, 0.254 mmol) was added and the reaction vessel was purged with nitrogen one more time. The reaction mixture was heated to 120° C. in microwave for 30 minutes. The product ((1R,3R)-methyl 1-(benzyloxycarbonylamino)-3-(4-vinylphenyl)cyclopentanecarboxylate (705 mg, 1.858 mmol, 73.0% yield)) was isolated by FCC as a lightly colored oil.

reactant | (1R,3R)-methyl 1-(benzyloxycarbonylamino)-3-(4-bromophenyl)cyclopentanecarboxylate | 2.54 mmol, 1.1 g | C(C1=CC=CC=C1)OC(=O)N[C@]1(C[C@@H](CC1)C1=CC=C(C=C1)Br)C(=O)OC | C21H22BrNO4
reactant | 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane | 2.80 mmol, 0.431 g | CC1(OB(OC1(C)C)C=C)C | C8H15BO2
reactant | Cs2CO3 | 7.63 mmol, 2.487 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DME | 30 ml | COCCOC | C4H10O2
solvent | Water | 7.50 ml | O | H2O
catalyst | PdCl2(dppf) | 0.254 mmol, 0.186 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (1R,3R)-methyl 1-(benzyloxycarbonylamino)-3-(4-vinylphenyl)cyclopentanecarboxylate | 1.858 mmol, 705 mg, 73.0% yield | C(C1=CC=CC=C1)OC(=O)N[C@]1(C[C@@H](CC1)C1=CC=C(C=C1)C=C)C(=O)OC | C23H25NO4
